### PR TITLE
[Merged by Bors] - feat(Analysis): add improper integral of complex exp

### PR DESCRIPTION
**Pull request by wwylele**
These are the infinite version of integral_exp_mul_complex.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 1]
```diff
@@ -35,6 +35,13 @@ theorem integrableOn_exp_Iic (c : ℝ) : IntegrableOn exp (Iic c) := by
   simp_rw [norm_of_nonneg (exp_pos _).le, integral_exp, sub_le_self_iff]
   exact (exp_pos _).le
 
+theorem integrableOn_exp_neg_Ioi (c : ℝ) : IntegrableOn (fun (x : ℝ) => exp (-x)) (Ioi c) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:38]: I think you should prove an analogue of [MeasureTheory.Integrable.comp_neg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Group/Integral.html#MeasureTheory.Integrable.comp_neg) for `IntegrableOn` and general sets, and likewise for everything else in that file. Then just use it here.

And why not `Ici c`?

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 2]
```diff
@@ -51,6 +58,54 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
...
+    fun_prop
+  · conv in (fun x => _) =>
+      ext x
+      rw [(by simp [Complex.norm_exp] : ‖Complex.exp (a * x)‖ = exp (-(-a.re * x)))]
+    have a_neg : 0 < -a.re := by simp [ha]
+    apply (integrableOn_Ioi_comp_mul_left_iff (fun x => exp (-x)) c a_neg).mpr
+    apply integrableOn_exp_neg_Ioi
+
+theorem integrableOn_exp_mul_complex_Iic {a : ℂ} (ha : 0 < a.re) (c : ℝ) :
+    IntegrableOn (fun x : ℝ => Complex.exp (a * x)) (Iic c) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:74]: This should follow from the above lemma and the `integrableOn.comp_neg` lemma I mentioned.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 3]
```diff
@@ -51,6 +58,54 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
 theorem integral_exp_neg_Ioi_zero : (∫ x : ℝ in Ioi 0, exp (-x)) = 1 := by
   simpa only [neg_zero, exp_zero] using integral_exp_neg_Ioi 0
 
+theorem integrableOn_exp_mul_complex_Ioi {a : ℂ} (ha : a.re < 0) (c : ℝ) :
+    IntegrableOn (fun x : ℝ => Complex.exp (a * x)) (Ioi c) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:62]: You should have remark like the one [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Lebesgue/Integral.html#Substituting-x-for-x) describing why you only have `Ioi` and `Iic` (although, for the `IntegrableOn` statements, as opposed to the integrals themselves, I suspect it's better to have closed infinite intervals everywhere, but I may be wrong.)

**Review by j-loreaux — COMMENTED** [review]
It looks like you're working harder than necessary in the proofs of the value of the integrals, but I'm out of time for review now so I'm not sure.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:38]: Yeah I'll try extracting a `IntegrableOn.comp_neg`-like theorem. As for why not `Ici`, it seems that most theorems are only stated for `Ioi` and `Iic`, like existing `integral_exp...` in this file. But if we think it is better to have all 4 versions, I certainly can add them

Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:38]: Sorry, I meant to take out that "Why not ...?" but forgot. Please note my other comment about adding an explanation for why we don't include the others.

**Comment by wwylele** [comment]
I have addressed the comments:
 - I observed that the entire file is following the convention to only state lemmas for `Iic` and `Ioi`, so I copied the note from https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Lebesgue/Integral.html#Substituting-x-for-x
 - I extracted `MeasureTheory.IntegrableOn.comp_neg_Iic` and `MeasureTheory.IntegrableOn.comp_neg_Ioi` and put them together with [`integral_comp_neg_Iic`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Lebesgue/Integral.html#integral_comp_neg_Iic). These are specifically for real domain instead of more general sets/groups. I didn't find a nice way to extract a lemma for general groups, as it becomes a thin specialization of `integrable_map_equiv` with `MeasurableEquiv.neg` and it feels more cumbersome to use than just using `integrable_map_equiv` itself...

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 4]
```diff
@@ -74,6 +74,23 @@ mathlib's conventions for integrals over finite intervals (see `intervalIntegral
 of finite integrals, see `intervalIntegral.integral_comp_neg`.
 -/
 
+theorem MeasureTheory.IntegrableOn.comp_neg_Iic {E : Type*} [NormedAddCommGroup E]
+    {c : ℝ} {f : ℝ → E} (hf : IntegrableOn f (Ioi (-c))) :
+    IntegrableOn (fun x => f (-x)) (Iic c) := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean:79]: Please prove the more general version which is analogous to: [MeasureTheory.Integrable.comp_neg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Group/Integral.html#MeasureTheory.Integrable.comp_neg). It should be `(hf : IntegrableOn f s) : IntegrableOn (fun x ↦ f (-x)) -s)` (and you'll probably need `open scoped Pointwise` for the `-s` to make sense).

You can then prove both these lemmas as special cases of that one.

Comment (wwylele) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean:80]: Thanks for the pointer. I think I get it now.

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 5]
```diff
@@ -74,6 +75,17 @@ mathlib's conventions for integrals over finite intervals (see `intervalIntegral
...
+  rw [(by simp : Iic c = - (Ici (-c)))]
+  exact (integrableOn_Ici_iff_integrableOn_Ioi.mpr hf).comp_neg
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean:82]:
```suggestion
  simpa using (integrableOn_Ici_iff_integrableOn_Ioi.mpr hf).comp_neg
```

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 6]
```diff
@@ -74,6 +75,17 @@ mathlib's conventions for integrals over finite intervals (see `intervalIntegral
...
+
+theorem MeasureTheory.IntegrableOn.comp_neg_Ioi {E : Type*} [NormedAddCommGroup E]
+    {c : ℝ} {f : ℝ → E} (hf : IntegrableOn f (Iic (-c))) :
+    IntegrableOn (fun x => f (-x)) (Ioi c) := by
+  rw [(by simp : Ioi c = - (Iio (-c)))]
+  exact (integrableOn_Iic_iff_integrableOn_Iio.mp hf).comp_neg
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean:88]:
```suggestion
  simpa using (integrableOn_Iic_iff_integrableOn_Iio.mp hf).comp_neg
```

File: Mathlib/MeasureTheory/Group/Integral.lean [hunk 7]
```diff
@@ -38,6 +38,14 @@ theorem integral_inv_eq_self (f : G → E) (μ : Measure G) [IsInvInvariant μ]
   have h : MeasurableEmbedding fun x : G => x⁻¹ := (MeasurableEquiv.inv G).measurableEmbedding
   rw [← h.integral_map, map_inv_eq_self]
 
+@[to_additive]
+theorem IntegrableOn.comp_inv [IsInvInvariant μ] {f : G → F} {s : Set G} (hf : IntegrableOn f s μ) :
+    IntegrableOn (fun x => f x⁻¹) s⁻¹ μ := by
+  apply (integrable_map_equiv (MeasurableEquiv.inv G) f).mp
+  rw [(by simp : s⁻¹ = MeasurableEquiv.inv G ⁻¹' s)]
+  rw [← MeasurableEquiv.restrict_map]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Group/Integral.lean:46]: not necessary, but I would say this is slightly more idiomatic.
```suggestion
  have : s⁻¹ = MeasurableEquiv.inv G ⁻¹' s := by simp
  rw [this, ← MeasurableEquiv.restrict_map]
```

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 8]
```diff
@@ -51,6 +57,49 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
...
+    apply (integrableOn_Ioi_comp_mul_left_iff (fun x => exp (-x)) c a_neg).mpr
+    apply integrableOn_exp_neg_Ioi
+
+theorem integrableOn_exp_mul_complex_Iic {a : ℂ} (ha : 0 < a.re) (c : ℝ) :
+    IntegrableOn (fun x : ℝ => Complex.exp (a * x)) (Iic c) := by
+  conv in (fun x => _) =>
+    ext x
+    rw [(by simp : a * x = -a * (-x : ℝ))]
+  have a_neg : (-a).re < 0 := by simp [ha]
+  exact (integrableOn_exp_mul_complex_Ioi a_neg (-c)).comp_neg_Iic
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:78]:
```suggestion
  simpa using (integrableOn_exp_mul_complex_Ioi (a := -a) (by simpa) (-c)).comp_neg_Iic
```

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 9]
```diff
@@ -51,6 +57,49 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
...
+    IntegrableOn (fun x : ℝ => Complex.exp (a * x)) (Ioi c) := by
+  refine (integrable_norm_iff ?_).mp ?_
+  · apply Continuous.aestronglyMeasurable
+    fun_prop
+  · conv in (fun x => _) =>
+      ext x
+      rw [(by simp [Complex.norm_exp] : ‖Complex.exp (a * x)‖ = exp (-(-a.re * x)))]
+    have a_neg : 0 < -a.re := by simp [ha]
+    apply (integrableOn_Ioi_comp_mul_left_iff (fun x => exp (-x)) c a_neg).mpr
+    apply integrableOn_exp_neg_Ioi
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:70]:
```suggestion
  · simpa [Complex.norm_exp] using
      (integrableOn_Ioi_comp_mul_left_iff (fun x => exp (-x)) c (a := -a.re) (by simpa)).mpr <|
        integrableOn_exp_neg_Ioi _ 
```

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 10]
```diff
@@ -51,6 +57,49 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
...
+  refine
+    tendsto_nhds_unique (intervalIntegral_tendsto_integral_Ioi c
+      (integrableOn_exp_mul_complex_Ioi ha c) tendsto_id) ?_
+  have nonzero : a ≠ 0 := fun h => (Complex.zero_re ▸ h ▸ ha).false
+  simp_rw [integral_exp_mul_complex nonzero, id_eq]
+  rw [(by simp : - Complex.exp (a * c) / a = (0 - Complex.exp (a * c)) / a)]
+  refine Tendsto.div_const (Tendsto.sub_const ?_ _) _
+  apply Complex.tendsto_exp_nhds_zero_iff.mpr
+  simp only [Complex.mul_re, Complex.ofReal_re, Complex.ofReal_im, mul_zero, sub_zero]
+  exact Tendsto.neg_mul_atTop ha tendsto_const_nhds tendsto_id
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:91]: 1. `aesop` can prove the `have nonzero`, so we can inline it into the `simp_rw`.
2. Your `rw [(by simp...)]` should have just be `rw [← sub_zero]`, but...
3. sometimes it's nicer to just tell Lean the thing you want to prove with `suffices`
```suggestion
  refine tendsto_nhds_unique (intervalIntegral_tendsto_integral_Ioi c
    (integrableOn_exp_mul_complex_Ioi ha c) tendsto_id) ?_
  simp_rw [integral_exp_mul_complex (c := a) (by aesop), id_eq]
  suffices Tendsto (fun x : ℝ ↦ Complex.exp (a * x)) atTop (𝓝 0) by
    simpa using this.sub_const _ |>.div_const _
  simpa [Complex.tendsto_exp_nhds_zero_iff] using tendsto_const_nhds.neg_mul_atTop ha tendsto_id
```

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 11]
```diff
@@ -51,6 +57,49 @@ theorem integral_exp_neg_Ioi (c : ℝ) : (∫ x : ℝ in Ioi c, exp (-x)) = exp
...
+
+theorem integral_exp_mul_complex_Iic {a : ℂ} (ha : 0 < a.re) (c : ℝ) :
+    ∫ x : ℝ in Set.Iic c, Complex.exp (a * x) = Complex.exp (a * c) / a := by
+  conv in (fun x => _) =>
+    ext x
+    rw [(by simp : a * x = -a * (-x : ℝ))]
+  rw [integral_comp_neg_Iic c (fun x => Complex.exp (-a * x))]
+  have a_neg : (-a).re < 0 := by simp [ha]
+  rw [integral_exp_mul_complex_Ioi a_neg]
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:101]:
```suggestion
  simpa [neg_mul, ← mul_neg, ← Complex.ofReal_neg,
    integral_comp_neg_Ioi (f := fun x : ℝ ↦ Complex.exp (a * x))]
      using integral_exp_mul_complex_Ioi (a := -a) (by simpa) (-c)
```

**Review by j-loreaux — COMMENTED** [review]
The suggestions below are not actually important, per se, they are primarily informative. It seems there are two things you can learn from these:

1. `simpa` is a great tactic. It's useful especially wheny you can build a slightly more complicated expression, and then use `simp` to rewrite it into the form you want.
2. You can provide an explicit value for an implicit argument `a` via the syntax `(a := my_value)`. This is useful, among other reasons, when you want to prove the explicit argument from which `a` is normally inferred using some automation (like `simpa` or `aesop`).

**Comment by wwylele** [comment]
@j-loreaux Thanks for the review! I am definitely still on my way learning the idiomatic way in mathlib, but I have learned a lot

File: Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean [hunk 12]
```diff
@@ -74,6 +75,15 @@ mathlib's conventions for integrals over finite intervals (see `intervalIntegral
 of finite integrals, see `intervalIntegral.integral_comp_neg`.
 -/
 
+theorem MeasureTheory.IntegrableOn.comp_neg_Iic {E : Type*} [NormedAddCommGroup E]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Integral.lean:78]: Presumably this and the following result generalize to the setting where the domain is a linearly ordered additive group, yes? Please generalize to that situation.

**Comment by wwylele** [comment]
I generalized the `IntegrableOn.comp_inv_I**` theorems to ordered group. Because I want to avoid adding `NoAtoms`, I provided the full family of `Iic`, `Ici`, `Iio`, and `Ioi` there.

**Review by j-loreaux — COMMENTED** [review]
Thanks! 

bors merge
